### PR TITLE
feat(Probability/BinomialRandomGraph): the edge count of a binomial random graph is binomially distributed

### PR DESCRIPTION
**Pull request by KevorkianPhilippe**
Adds `binomialRandom_map_ncard_edgeSet`: for a finite vertex type, the pushforward of `G(V, p)` under the edge count is `Bin((Nat.card V).choose 2, p)`. This is the distribution-level statement that the (since removed) `proof_wanted binomialRandom_map_ncard_edgeSet_singleton` anticipated at the level of a single point mass.

It rests on one new lemma in `Mathlib/Probability/Distributions/Binomial.lean`, `map_ncard_setBernoulli_eq_binomial`, the distribution-level form of the existing `map_ncard_setBernoulli_singleton`: the cardinality pushforward of a set-Bernoulli measure on a finite set `u` is `binomial u.ncard p`.

Proof sketch: `binomialRandom_eq_map` writes `G(V, p)` as the pushforward of `setBer(Sym2.diagSetᶜ, p)` along `fromEdgeSet`. Almost every sampled set is contained in `Sym2.diagSetᶜ` (`setBernoulli_ae_subset`), and on such a set `(fromEdgeSet s).edgeSet = s`, so `Measure.map_congr` turns the edge count into the cardinality pushforward of the set-Bernoulli measure; `Sym2.ncard_diagSet_compl` then identifies the number of trials with `(Nat.card V).choose 2`.

Use of AI: this contribution was written with AI assistance (Claude), iterated against the Lean compiler until it compiled with no `sorry`, and reviewed by me before submission. I am happy to explain and defend any design decision here; the statement was chosen to match the existing API (`map_ncard_setBernoulli_singleton`, `binomial_singleton`) rather than to restate it pointwise.

### CODE REVIEW

**Comment by KevorkianPhilippe** [comment]
LLM-generated

File: Mathlib/Probability/Distributions/Binomial.lean [hunk 1]
```diff
@@ -90,6 +90,14 @@ lemma binomial_singleton (n k : ℕ) (p : I) :
   rw [← ENNReal.ofReal_toReal (a := Bin(n, p) _) (by simp), ← measureReal_def,
     binomial_real_singleton]
 
+/-- The number of successes among `Set.ncard`-many independent Bernoulli trials over a finite
+set `u` follows the binomial distribution with `u.ncard` trials. -/
+lemma map_ncard_setBernoulli_eq_binomial {ι : Type*} [Countable ι] {u : Set ι}
+    (hu : u.Finite) (p : I) :
+    setBer(u, p).map Set.ncard = binomial u.ncard p := by
```
Comment (SnirBroshi) [inline Mathlib/Probability/Distributions/Binomial.lean]:
```suggestion
lemma map_ncard_setBernoulli_eq_binomial {ι : Type*} [Countable ι] {u : Set ι} (hu : u.Finite)
    (p : I) : setBer(u, p).map Set.ncard = binomial u.ncard p := by
```

File: Mathlib/Probability/Combinatorics/BinomialRandomGraph/Defs.lean [hunk 2]
```diff
@@ -6,7 +6,9 @@ Authors: Yaël Dillies
 module
 
 public import Mathlib.Data.Sym.Card
+public import Mathlib.Data.Sym.NatCard
```
Comment (SnirBroshi) [inline Mathlib/Probability/Combinatorics/BinomialRandomGraph/Defs.lean]: This is only used inside a proof, so can be private:
```suggestion
import Mathlib.Data.Sym.NatCard
```
(and then move it to the bottom of the imports, per [the style guide](https://leanprover-community.github.io/contribute/style.html#header-and-imports))

File: Mathlib/Probability/Combinatorics/BinomialRandomGraph/Defs.lean [hunk 3]
```diff
@@ -96,4 +98,18 @@ variable (p) in
   rw [Nat.card_eq_fintype_card, ← Sym2.card_diagSet_compl, Fintype.card_eq_nat_card,
     ← Nat.card_coe_set_eq]
 
+variable (V p) in
+/-- The number of edges of a binomial random graph `G(V, p)` is binomially distributed
+with `(Nat.card V).choose 2` trials. -/
+theorem binomialRandom_map_ncard_edgeSet [Finite V] :
+    G(V, p).map (fun G ↦ G.edgeSet.ncard) = binomial ((Nat.card V).choose 2) p := by
+  have hmap : G(V, p).map (fun G ↦ G.edgeSet.ncard)
+      = setBer((Sym2.diagSetᶜ : Set (Sym2 V)), p).map Set.ncard := by
```
Comment (SnirBroshi) [inline Mathlib/Probability/Combinatorics/BinomialRandomGraph/Defs.lean]: Operators are usually kept at the end of the previous line
```suggestion
  have hmap : G(V, p).map (·.edgeSet.ncard) =
      setBer((Sym2.diagSetᶜ : Set (Sym2 V)), p).map Set.ncard := by
```

File: Mathlib/Probability/Combinatorics/BinomialRandomGraph/Defs.lean [hunk 4]
```diff
@@ -96,4 +98,18 @@ variable (p) in
...
+    rw [binomialRandom_eq_map, Measure.map_map (by fun_prop) measurable_fromEdgeSet]
+    refine Measure.map_congr ?_
+    filter_upwards [setBernoulli_ae_subset] with s hs
+    change (fromEdgeSet s).edgeSet.ncard = s.ncard
+    rw [edgeSet_fromEdgeSet, sdiff_eq_left.mpr (Set.subset_compl_iff_disjoint_right.mp hs)]
```
Comment (SnirBroshi) [inline Mathlib/Probability/Combinatorics/BinomialRandomGraph/Defs.lean]:
```suggestion
    rw [Function.comp_apply, edgeSet_fromEdgeSet,
      sdiff_eq_left.mpr (Set.subset_compl_iff_disjoint_right.mp hs)]
```

File: Mathlib/Probability/Combinatorics/BinomialRandomGraph/Defs.lean [hunk 5]
```diff
@@ -6,7 +6,9 @@ Authors: Yaël Dillies
 module
 
 public import Mathlib.Data.Sym.Card
+public import Mathlib.Data.Sym.NatCard
 public import Mathlib.MeasureTheory.Constructions.SimpleGraph
+public import Mathlib.Probability.Distributions.Binomial
 public import Mathlib.Probability.Distributions.SetBernoulli
```
Comment (SnirBroshi) [inline Mathlib/Probability/Combinatorics/BinomialRandomGraph/Defs.lean]:
```suggestion
```

File: Mathlib/Probability/Distributions/Binomial.lean (hunk 1 above)
Comment (KevorkianPhilippe) [reply Mathlib/Probability/Distributions/Binomial.lean]: Done in `cf7971c5`.

File: Mathlib/Probability/Combinatorics/BinomialRandomGraph/Defs.lean (hunk 2 above)
Comment (KevorkianPhilippe) [reply Mathlib/Probability/Combinatorics/BinomialRandomGraph/Defs.lean]: Done in `cf7971c5`: non-public import, moved after the public ones.

File: Mathlib/Probability/Combinatorics/BinomialRandomGraph/Defs.lean (hunk 3 above)
Comment (KevorkianPhilippe) [reply Mathlib/Probability/Combinatorics/BinomialRandomGraph/Defs.lean]: Done in `cf7971c5`.

File: Mathlib/Probability/Combinatorics/BinomialRandomGraph/Defs.lean (hunk 4 above)
Comment (KevorkianPhilippe) [reply Mathlib/Probability/Combinatorics/BinomialRandomGraph/Defs.lean]: Done in `cf7971c5`.

File: Mathlib/Probability/Combinatorics/BinomialRandomGraph/Defs.lean (hunk 5 above)
Comment (KevorkianPhilippe) [reply Mathlib/Probability/Combinatorics/BinomialRandomGraph/Defs.lean]: Done in `cf7971c5`. Indeed redundant now, since `Mathlib.Probability.Distributions.Binomial` imports `SetBernoulli` publicly.

**Comment by KevorkianPhilippe** [comment]
Thanks for the quick review. All five suggestions are applied in `cf7971c5`; both modules build and `lint-style` is clean.

File: Mathlib/Probability/Combinatorics/BinomialRandomGraph/Defs.lean [hunk 6]
```diff
@@ -7,7 +7,8 @@ module
 
 public import Mathlib.Data.Sym.Card
 public import Mathlib.MeasureTheory.Constructions.SimpleGraph
-public import Mathlib.Probability.Distributions.SetBernoulli
+public import Mathlib.Probability.Distributions.Binomial
+import Mathlib.Data.Sym.NatCard
```
Comment (SnirBroshi) [inline Mathlib/Probability/Combinatorics/BinomialRandomGraph/Defs.lean:12]:
```suggestion

import Mathlib.Data.Sym.NatCard
```
Per the [style guide](https://leanprover-community.github.io/contribute/style.html#header-and-imports)

**Comment by SnirBroshi** [comment]
> Thanks for the quick review. All five suggestions are applied in `cf7971c5`; both modules build and `lint-style` is clean.

Hello! Could you please clarify how you're using LLMs to respond to reviews?

Also, could you remove the LLM-authored parts of the PR description, and write it manually?
Thanks!
